US07402605B2
(4R)-4-formyl-4-t-butoxycarbonylaminobutanoic acid ethyl ester
Under an atmosphere of argon, to a mixed solution of (4R)-4-t-butoxycarbonylamino-5-hydroxypentanoic acid ethyl ester (1.62 g) and diisopropylethylamine (6.5 ml) in dimethylsulfoxide-ethyl acetate (1:1, 40 mL) was added sulfur trioxide pyridine complex (2.96 g) in ice bath and the mixture was stirred in ice bath for 1 hour. The reaction solution was poured into ice water and extracted with ethyl acetate. The organic layer was washed with 0.5N hydrochloric acid, water and brine, dried over anhydrous magnesium sulfate and concentrated to give the title compound (1.65 g) having the following physical data.

reactant | (4R)-4-t-butoxycarbonylamino-5-hydroxypentanoic acid ethyl ester | 1.62 g | C(C)OC(CC[C@H](CO)NC(=O)OC(C)(C)C)=O | C12H23NO5
reactant | diisopropylethylamine | 6.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylsulfoxide ethyl acetate | 40 mL | CS(=O)C.C(C)(=O)OCC
product | (4R)-4-formyl-4-t-butoxycarbonylaminobutanoic acid ethyl ester | 1.65 g | C(C)OC(CC[C@@H](NC(=O)OC(C)(C)C)C=O)=O | C12H21NO5
